US08623889B2
N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)methanesulfonamide
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (150 mg, 0.595 mmol) in pyridine (5 mL) was added methanesulfonyl chloride (137 mg, 1.20 mmol) dropwise at 0° C. The resulting mixture was stirred at room temperature overnight. A small amount of water was added to the reaction mixture, and it was extracted with ethyl acetate. The organic phase was pooled and concentrated. It was purified by prep-HPLC to give the desired product (80.5 mg, 41.0%). LCMS (ESI): RT (min)=1.181, M+H+=330.9, method=A; 1H NMR (400 MHz, DMSO-d6) δ 10.57 (s, 1H), 9.17 (s, 1H), 8.04 (s, 1H), 7.93 (d, J=8.8 Hz, 1H), 7.70 (d, J=8.4 Hz, 1H), 7.44 (s, 1H), 7.38-7.34 (m, 1H), 7.15 (d, J=9.2 Hz, 2H), 3.30 (s, 3H), 2.22 (s, 3H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.595 mmol, 150 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | methanesulfonyl chloride | 1.20 mmol, 137 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)methanesulfonamide | 80.5 mg, 41.0% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NS(=O)(=O)C)C | C17H15FN2O2S
